US07378409B2
A solution of benzyl 2-((1S,2R,4R)-2-butyl-4-(tert-butylamino)cyclohexylamino)-2-oxoethylcarbamate (890 mg, 0.0021 mol), in 40 mL of MeOH was treated with 0.3 g of 10% Pd/C and hydrogenated overnight at 55 psi. The mixture was filtered through Celite and concentrated on a rotary evaporator to give 490 mg of 2-amino-N-((1S,2R,4R)-2-butyl-4-(tert-butylamino)cyclohexyl)acetamide. This was used without further purification.

reactant | benzyl 2-((1S,2R,4R)-2-butyl-4-(tert-butylamino)cyclohexylamino)-2-oxoethylcarbamate | 0.0021 mol, 890 mg | C(CCC)[C@H]1[C@H](CC[C@H](C1)NC(C)(C)C)NC(CNC(OCC1=CC=CC=C1)=O)=O | C24H39N3O3
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 2-amino-N-((1S,2R,4R)-2-butyl-4-(tert-butylamino)cyclohexyl)acetamide | 490 mg | NCC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(C)(C)C)CCCC | C16H33N3O
